US08293768B2
Synthesis of 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylic acid
To a solution of ethyl 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate (0.16 g, 0.39 mmol) in tetrahydrofuran (8 mL), and water (2 mL) was added lithium hydroxide monohydrate (0.08 g, 1.99 mmol) at ambient temperature. The resulting reaction mixture was heated to reflux for 17 hours. The organic solvent was removed in vacuo and the residue was neutralized to pH 4˜5 with 10% hydrochloric acid. The resulting precipitate was filtered and dried to afford the title compound in 99% yield (0.15 g): MS (ES+) m/z 385.2 (M+1).

reactant | ethyl 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylate | 0.39 mmol, 0.16 g | CC=1N=C(SC1C(=O)OCC)N1C=NN(C1=O)CC1=CC=C(C=C1)C(F)(F)F | C17H15F3N4O3S
reactant | water | 2 mL | O | H2O
reactant | lithium hydroxide monohydrate | 1.99 mmol, 0.08 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylic acid | 99% yield | CC=1N=C(SC1C(=O)O)N1C=NN(C1=O)CC1=CC=C(C=C1)C(F)(F)F | C15H11F3N4O3S
